************ test circuit for transmission simulation **************

Ra    1    2                       1K
Rb    0    3                       1K
Rc    0    4                       1K
Rd    0    5                       1K
Re    6    0                       1Meg
Rf    7    0                       1Meg
Rg    8    0                       1Meg
Rh    9    0                       1Meg


*
* Subcircuit test
* test is a subcircuit that models a 4-conductor transmission line with
* the following parameters: l=9e-09, c=2.9e-13, r=0.3, g=0,
* inductive_coeff_of_coupling k=0.6, inter-line capacitance cm=3e-14,
* length=6.3. Derived parameters are: lm=5.4e-09, ctot=3.5e-13.
* 
* It is important to note that the model is a simplified one - the
* following assumptions are made: 1. The self-inductance l, the
* self-capacitance ctot (note: not c), the series resistance r and the
* parallel capacitance g are the same for all lines, and 2. Each line
* is coupled only to the two lines adjacent to it, with the same
* coupling parameters cm and lm. The first assumption implies that edge
* effects have to be neglected. The utility of these assumptions is
* that they make the sL+R and sC+G matrices symmetric, tridiagonal and
* Toeplitz, with useful consequences (see "Efficient Transient
* Simulation of Lossy Interconnect", by J.S.  Roychowdhury and
* D.O Pederson, Proc. DAC 91).

* It may be noted that a symmetric two-conductor line is
* represented accurately by this model.

* Subckt node convention:
* 
*            |--------------------------|
*      1-----|                          |-----n+1
*      2-----|                          |-----n+2
*         :  |   n-wire multiconductor  |  :
*         :  |          line            |  :
*    n-1-----|(node 0=common gnd plane) |-----2n-1
*      n-----|                          |-----2n
*            |--------------------------|


* Lossy line models
.model mod1_test ltra rel=1.2 nocontrol r=0.3 l=2.62616456193e-10 g=0 c=3.98541019688e-13 len=6.3
.model mod2_test ltra rel=1.2 nocontrol r=0.3 l=5.662616446e-09 g=0 c=3.68541019744e-13 len=6.3
.model mod3_test ltra rel=1.2 nocontrol r=0.3 l=1.23373835171e-08 g=0 c=3.3145898046e-13 len=6.3
.model mod4_test ltra rel=1.2 nocontrol r=0.3 l=1.7737383521e-08 g=0 c=3.01458980439e-13 len=6.3

* subcircuit m_test - modal transformation network for test
.subckt m_test 1 2 3 4 5 6 7 8
v1 9 0 0v
v2 10 0 0v
v3 11 0 0v
v4 12 0 0v
f1 0 5 v1 0.371748033738
f2 0 5 v2 -0.601500954587
f3 0 5 v3 0.601500954587
f4 0 5 v4 -0.371748036544
f5 0 6 v1 0.60150095443
f6 0 6 v2 -0.371748035044
f7 0 6 v3 -0.371748030937
f8 0 6 v4 0.601500957402
f9 0 7 v1 0.601500954079
f10 0 7 v2 0.37174803072
f11 0 7 v3 -0.371748038935
f12 0 7 v4 -0.601500955482
f13 0 8 v1 0.371748035626
f14 0 8 v2 0.601500956073
f15 0 8 v3 0.601500954504
f16 0 8 v4 0.371748032386
e1 13 9 5 0 0.371748033909
e2 14 13 6 0 0.601500954587
e3 15 14 7 0 0.601500955639
e4 1 15 8 0 0.371748036664
e5 16 10 5 0 -0.60150095443
e6 17 16 6 0 -0.371748035843
e7 18 17 7 0 0.371748032386
e8 2 18 8 0 0.601500957319
e9 19 11 5 0 0.601500955131
e10 20 19 6 0 -0.371748032169
e11 21 20 7 0 -0.371748037896
e12 3 21 8 0 0.601500954513
e13 22 12 5 0 -0.371748035746
e14 23 22 6 0 0.60150095599
e15 24 23 7 0 -0.601500953534
e16 4 24 8 0 0.371748029317
.ends m_test

* Subckt test
.subckt test 1 2 3 4 5 6 7 8
x1 1 2 3 4 9 10 11 12 m_test
o1 9 0 13 0 mod1_test
o2 10 0 14 0 mod2_test
o3 11 0 15 0 mod3_test
o4 12 0 16 0 mod4_test
x2 5 6 7 8 13 14 15 16 m_test
.ends test
*
x1  2 3 4 5    6 7 8 9 test
*
*
VS1   1    0   PWL(15.9NS 0.0 16.1Ns 5.0 31.9Ns 5.0 32.1Ns 0.0)


.TRAN   0.2NS  50NS 
*
.END

